data/nitro/train.csv
rxn,smiles,ea
543,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[Br:16])(\[Br:17])[c:18]1[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]1[H:28]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[Br:16])([Br:17])[c:18]1[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]1[H:28],-7.244790777890498
974,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Cl:20])([H:21])[H:22]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Cl:20])([H:21])[H:22],-6.543516937645377
F9,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[H:16])(\[C:17]([H:18])([H:19])[C:20]([H:21])([H:22])[C:23]([H:24])([H:25])[C:26]([H:27])([H:28])[C:29]([H:30])([H:31])[H:32])[H:33]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[H:16])([C:17]([H:18])([H:19])[C:20]([H:21])([H:22])[C:23]([H:24])([H:25])[C:26]([H:27])([H:28])[C:29]([H:30])([H:31])[H:32])[H:33],-6.816290285845358
1000,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[H:22])([H:23])[H:24]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[H:22])([H:23])[H:24],-13.844607237829686
441,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18])(\[Br:19])[Cl:20]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18])([Br:19])[Cl:20],-7.228456706094517
86,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[C:20]([H:21])([H:22])[H:23])(\[C:24]([H:25])([H:26])[H:27])[Br:28]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[C:20]([H:21])([H:22])[H:23])([C:24]([H:25])([H:26])[H:27])[Br:28],3.244431686244022
246,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[C:20]([H:21])([H:22])[H:23])([Cl:24])[Cl:25]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[C:20]([H:21])([H:22])[H:23])([Cl:24])[Cl:25],2.9329359833664057
247,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])([Cl:20])[Cl:21]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])([Cl:20])[Cl:21],-1.5128556882468325
861,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Br:24])(\[H:25])[Cl:26]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Br:24])([H:25])[Cl:26],-19.283528660934913
234,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[H:12])(\[Cl:13])[C:14]([H:15])([H:16])[H:17]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[H:12])([Cl:13])[C:14]([H:15])([H:16])[H:17],-11.04370552297303
139,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([H:12])[H:13])[Br:14])(\[C:15]([H:16])([H:17])[H:18])[c:19]1[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]([H:27])[c:28]1[H:29]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[Br:14])([C:15]([H:16])([H:17])[H:18])[c:19]1[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]([H:27])[c:28]1[H:29],-5.705146082204813
332,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[Cl:17])(\[Cl:18])[c:19]1[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]([H:27])[c:28]1[H:29]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[Cl:17])([Cl:18])[c:19]1[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]([H:27])[c:28]1[H:29],-8.763269578279019
